US09108977B2
To a solution of 5.74 g of ethyl 7-amino-6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate in 100 ml of dichloromethane was added portionwise 3.9 g of N-bromosuccinimide under ice-cooling, followed by stirring for 40 minutes. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 5.769 g of ethyl 7-amino-8-bromo-6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate as a brown solid.

reactant | ethyl 7-amino-6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 5.74 g | NC1=C(C2=C(CCN(CC2)C(=O)OCC)C=C1)Cl | C13H17ClN2O2
reactant | N-bromosuccinimide | 3.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ethyl 7-amino-8-bromo-6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 5.769 g | NC1=C(C2=C(CCN(CC2)C(=O)OCC)C=C1Br)Cl | C13H16BrClN2O2
